US06229036B1
isobutylene/isoprene copolymers (IIR)
butadiene/acrylonitrile copolymers with acrylonitrile contents of 5 to 60, preferably 10 to 50 wt. % (NBR)

reactant | butadiene acrylonitrile | C=CC=C.C(C=C)#N
reactant | acrylonitrile | C(C=C)#N | C3H3N
product | isobutylene isoprene | CC(C)=C.C=CC(C)=C | InChI=1S/C5H8.C4H8/c1-4-5(2)3;1-4(2)3/h4H,1-2H2,3H3;1H2,2-3H3
